US04490369
1-[1-Oximino-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane hydrochloride
A mixture of 3.6 gm of (6.8 mmols) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane, 0.57 gm of hydroxylamine hydrochloride and 0.87 gm of sodium carbonate was refluxed for 8 hours in 100 ml of ethanol. The solvent was then distilled off in vacuo; the residue was dissolved in water/methylene chloride, and the organic phase was separated, dried over magnesium sulfate and concentrated by evaporation. The residue was purified on silica gel, using methylene chloride and 5% ethanol as the eluant. The free base product thus obtained was dissolved in acetone, and the hydrochloride was precipitated by the addition of ethereal hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | 6.8 mmols, 3.6 gm | COC1=CC2=C(C(C(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)=O)C=C1OC | C26H34N2O6
reactant | hydroxylamine hydrochloride | 0.57 gm | Cl.NO
reactant | sodium carbonate | 0.87 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 1-[1-Oximino-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane hydrochloride | Cl.N(O)=C1C(N(CCC2=C1C=C(C(=C2)OC)OC)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O | InChI=1S/C26H35N3O6.ClH/c1-28(13-9-18-7-8-21(32-2)22(15-18)33-3)11-6-12-29-14-10-19-16-23(34-4)24(35-5)17-20(19)25(27-31)26(29)30;/h7-8,15-17,31H,6,9-14H2,1-5H3;1H
